US07704995B2
To a solution of 3-amino-6-(3-cyanophenyl)-N-methylpyrazine-2-carboxamide (93 mg, 0.37 mmol) in dry N,N-dimethylformamide (1 mL) were added sodium azide (27 mg, 0.41 mmol), and ammonium chloride (22 mg, 0.41 mmol). The reaction was heated to 100-110° C. overnight. Reaction cooled to room temperature and treated with saturated aqueous sodium bicarbonate (20 mL). The aqueous layer was washed with ethyl acetate (2×30 mL). The sodium bicarbonate layer was cooled to 0° C. and neutralized with 2.0 N hydrochloric acid until the pH of the solution became in the 2-3 range. The aqueous layer was extracted with ethyl acetate (100 mL) and washed with water (20 mL) and saturated aqueous sodium chloride (30 mL), dried over magnesium sulfate, filtered, and concentrated at reduced pressure to afford 3-amino-N-methyl-6-[3-(1H-tetrazol-5-yl)phenyl]pyrazine-2-carboxamide (25 mg, 23% yield) as light yellow solid. 1H NMR (400 MHz, d6-DMSO): 8.92 (s, 1H), 8.84 (m, 1H), 8.70 (br s, 1H), 8.40 (br d, 1H), 8.12 (br d, 1H), 7.70 (t, 1H), 2.92 (br s, 3H); MS (EI) for C13H12N8O: 297 (MH+).

reactant | 3-amino-6-(3-cyanophenyl)-N-methylpyrazine-2-carboxamide | 0.37 mmol, 93 mg | NC=1C(=NC(=CN1)C1=CC(=CC=C1)C#N)C(=O)NC | C13H11N5O
reactant | sodium azide | 0.41 mmol, 27 mg | [N-]=[N+]=[N-].[Na+]
reactant | ammonium chloride | 0.41 mmol, 22 mg | [Cl-].[NH4+]
reactant | sodium bicarbonate | 20 mL | C([O-])(O)=O.[Na+]
solvent | N,N-dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
product | 3-amino-N-methyl-6-[3-(1H-tetrazol-5-yl)phenyl]pyrazine-2-carboxamide | 25 mg, 23% yield | NC=1C(=NC(=CN1)C1=CC(=CC=C1)C1=NN=NN1)C(=O)NC | C13H12N8O
